US07056917B2
(A) tert-Butyl (E)-3-{8-[(E)-2-(4-isopropyl-1,3-thiazol-2-yl)-1-ethenyl]-2-{[(4-methyl-phenyl)sulfonyl]oxy}-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl}-2-propenoate
4-[(E)-2-(4-Isopropyl-1,3-thiazol-2-yl)-1-ethenyl]-2-pyridinamine (100 mg, 0.408 mmol) was dissolved in xylene (1.2 ml), added with trichlorophenyl malonate (208 mg, 0.448 mmol), and then the mixture was refluxed by heating for 1.3 hours. The reaction mixture was added with n-hexane, and the deposited solid was collected by filtration. Dimethylformamide (110 μl) was added with phosphorus oxychloride (190 μl, 2.04 mmol) under ice cooling and stirred at room temperature for 30 minutes. The mixture was added with the solid dissolved in dichloromethane (3.0 ml) under ice cooling, and stirred at room temperature for 1.5 hours. The reaction mixture was added with saturated aqueous sodium hydrogencarbonate and extracted with chloroform. The organic layer was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was suspended in anhydrous tetrahydrofuran (4.0 ml), added with (tert-butoxycarbonylmethylene)triphenylphosphorane (460 mg, 1.22 mmol), and stirred at 80° C. for 5 days. The reaction solution was concentrated, and then the residue was purified by silica gel column chromatography (chloroform:methanol=100:0→100:10, v/v) and thin layer chromatography (chloroform:methanol=10:1, v/v). The resulting compound was dissolved in anhydrous tetrahydrofuran (600 μl) and dimethylformamide (600 μl), added with 4-dimethylaminopyridine (10.2 mg, 0.0831 mmol) and p-toluenesulfonyl chloride (13.4 mg, 0.0703 mmol), and stirred at room temperature for 2 hours. The reaction mixture was added with water and extracted with chloroform. The organic layer was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by thin layer chromatography (n-hexane:ethyl acetate=2:1, v/v) to obtain the title compound (9.0 mg, 3.7%).

reactant | 4-[(E)-2-(4-Isopropyl-1,3-thiazol-2-yl)-1-ethenyl]-2-pyridinamine | 0.408 mmol, 100 mg | C(C)(C)C=1N=C(SC1)/C=C/C1=CC(=NC=C1)N | C13H15N3S
reactant | trichlorophenyl malonate | 0.448 mmol, 208 mg | C(CC(=O)[O-])(=O)OC1=C(C(=C(C=C1)Cl)Cl)Cl
reactant | phosphorus oxychloride | 2.04 mmol, 190 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | (tert-butoxycarbonylmethylene)triphenylphosphorane | 1.22 mmol, 460 mg | C(C)(C)(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H25O2P
reactant | p-toluenesulfonyl chloride | 0.0703 mmol, 13.4 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | xylene | 1.2 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | dichloromethane | 3.0 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 600 μl | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.0831 mmol, 10.2 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | Dimethylformamide | 110 μl | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | n-hexane | CCCCCC | C6H14
product | tert-Butyl (E)-3-{8-[(E)-2-(4-isopropyl-1,3-thiazol-2-yl)-1-ethenyl]-2-{[(4-methyl-phenyl)sulfonyl]oxy}-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl}-2-propenoate | 9.0 mg, 3.7% | C(C)(C)C=1N=C(SC1)/C=C/C1=CC=2N(C(C(=C(N2)OS(=O)(=O)C2=CC=C(C=C2)C)/C=C/C(=O)OC(C)(C)C)=O)C=C1 | C30H31N3O6S2
